### PR TITLE
[Merged by Bors] - feat(CategoryTheory): more API for `IsoCat`

### PR DESCRIPTION
**Pull request by joelriou**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/IsoCat.lean [hunk 1]
```diff
@@ -177,4 +199,25 @@ instance [F.IsIso] : F.strictInv.IsIso := F.asIsomorphism.symm.isIso_functor
...
+
+variable {C D : Type*} [Category* C] (e : D ≃ C)
+
+/-- The isomorphism of categories between `InducedCategory C e` and `C` when
+`e : D ≃ C` is a bijection. -/
+@[simps, implicit_reducible]
+def isoCat : IsoCat (InducedCategory C e) C where
+  functor := inducedFunctor e
+  inverse.obj X := e.symm X
+  inverse.map f :=  { hom := eqToHom (by simp) ≫ f ≫ eqToHom (by simp) }
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/IsoCat.lean]:
```suggestion
  inverse.map f := { hom := eqToHom (by simp) ≫ f ≫ eqToHom (by simp) }
```

File: Mathlib/CategoryTheory/IsoCat.lean [hunk 2]
```diff
@@ -177,4 +199,25 @@ instance [F.IsIso] : F.strictInv.IsIso := F.asIsomorphism.symm.isIso_functor
...
+  unit_eq := Functor.ext (by simp) (by cat_disch)
+  counit_eq := Functor.ext (by simp) (by cat_disch)
+
+/-- The equivalence of categories between `InducedCategory C e` and `C` when
+`e : D ≃ C` is a bijection. -/
+abbrev equivalence : (InducedCategory C e) ≌ C :=
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/IsoCat.lean]:
```suggestion
abbrev equivalence : InducedCategory C e ≌ C :=
```

File: Mathlib/CategoryTheory/IsoCat.lean [hunk 3]
```diff
@@ -177,4 +199,25 @@ instance [F.IsIso] : F.strictInv.IsIso := F.asIsomorphism.symm.isIso_functor
...
+  (isoCat e).toEquivalence
+
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/IsoCat.lean:222]: Just in case, the following lemma is free:
```lean
lemma inducedFunctor_isIso_of_bijective (f : D → C) (hf : Function.Bijective f) :
    (inducedFunctor f).IsIso :=
  (inferInstance : (isoCat (.ofBijective f hf)).functor.IsIso)
```

File: Mathlib/CategoryTheory/IsoCat.lean [hunk 4]
```diff
@@ -78,6 +78,28 @@ def IsoCat.trans (e : IsoCat C D) (f : IsoCat D E) : IsoCat C E where
...
+  have : (e.inverse ⋙ e.functor) ⋙ F = (e.inverse ⋙ e.functor) ⋙ G := by
+    simp only [Functor.assoc, h]
+  simpa [counit_eq, Functor.id_comp] using this
+
+lemma IsoCat.comp_functor_injective
+    (e : IsoCat C D) {F G : E ⥤ C} (h : F ⋙ e.functor = G ⋙ e.functor) :
+    F = G := by
+  have : F ⋙ e.functor ⋙ e.inverse = G ⋙ e.functor ⋙ e.inverse  := by
+    simp [← Functor.assoc, h]
+  simpa only [← unit_eq, Functor.comp_id] using this
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/IsoCat.lean:101]: I imagine the rationale for not having the `_comp_inverse` lemmas is that we can apply this to `e.symm`?

Comment (joelriou) [reply Mathlib/CategoryTheory/IsoCat.lean:101]: Yes. If you prefer, I may add these lemmas though.

Comment (robin-carlier) [reply Mathlib/CategoryTheory/IsoCat.lean:101]: I think it’s fine without them (`e` being explicit, it’s easy to call these with `e.symm`, and unification between `e.symm.functor` and `e.inverse` is hopefully fine as `e.symm` is implicit_reducible).

**Comment by robin-carlier** [comment]
Thanks!

maintainer merge

**Review by ocfnash — APPROVED** [review]
Thanks!

bors merge
